US09284333B2
4-Formyl-morpholine-3-carboxylic acid (Comp. No. 1)
To a mixture of morpholine-3-carboxylic acid (5 g, 38.1 mmol) and formic acid (46.6 g, 1.01 mol) cooled at 0-5° C. was added acetic anhydride (26.7 g, 262 mmol) dropwise. The resulting mixture was stirred at room temperature for 2 h. An excess of water was added while cooling the mixture. The resulting mixture was then concentrated under reduced pressure. The crude product 4-formyl-morpholine-3-carboxylic acid (6 g) was used in the next step without further purification. LC/MS (method 7): Rt=0.13 min; m/z=160.1 (M+H+).

reactant | morpholine-3-carboxylic acid | 38.1 mmol, 5 g | N1C(COCC1)C(=O)O | C5H9NO3
reactant | formic acid | 1.01 mol, 46.6 g | C(=O)O | CH2O2
reactant | acetic anhydride | 262 mmol, 26.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-Formyl-morpholine-3-carboxylic acid | C(=O)N1C(COCC1)C(=O)O | C6H9NO4
